3
V1 1 0 0 0 10
R1 1 2 32000
R2 2 0 18000
RE 3 0 1500 
C2 2 4 1e-6 
RC 1 5 1000
RL 5 0 10000 
C1 3 0 1e-6   
Q1 5 2 3 NPN 0.995 0.5 7.5e-14 24.99e-3 7.5e-14 24.99e-3 100 5e-12 100e-18 5e-12 100e-1 
V2 4 0 0.1 0 0    
.AC DEC 2 10 1e6